US04150032
9b-Allyl-8-benzyloxy-3a-hydroxy-3-methyl-2-oxo-2,3,3a,4,5,9b-hexahydro-1H-benz[e]indole
A mixture of 6.30 g (167 mmol) ethyl-1-allyl-7-benzyloxy-2-oxo-1,2,3,4-tetrahydro-1-naphthaleneacetate (IXc), 31.0 g methylamine and 200 ml 1:1 ethanol-dioxane was stirred at room temperature for 3 days. The reaction mixture was concentrated by evaporation of the solvent (35°-40° C.) to half the volume and diluted with 200 ml ether to provide a crystalline product which was collected to give 51.0 g (86%) Xc, m.p. 188°-190°; IR (Nujol), 3250, (broad), 1665, 1615, 1505 cm-1.

reactant | ethyl-1-allyl-7-benzyloxy-2-oxo-1,2,3,4-tetrahydro-1-naphthaleneacetate | 167 mmol, 6.30 g | C(C)OC(CC1(C(CCC2=CC=C(C=C12)OCC1=CC=CC=C1)=O)CC=C)=O | C24H26O4
reactant | methylamine | 31.0 g | CN | CH5N
product | 9b-Allyl-8-benzyloxy-3a-hydroxy-3-methyl-2-oxo-2,3,3a,4,5,9b-hexahydro-1H-benz[e]indole | C(C=C)C12CC(N(C2(CCC2=C1C=C(C=C2)OCC2=CC=CC=C2)O)C)=O | C23H25NO3
